US07868018B2
N—(3-{7-(3-tert-Butyl-ureido)-2-[4-(2-diethylamino-ethoxy)-phenylamino]-pyrido[2,3-d]pyrimidin-6-yl}-2,4-dichloro-phenyl)-3-trifluoromethyl-benzamide
This compound is prepared using a similar procedure to the one described above except that in step D the following procedure is used. To a solution of N—{3-[7-(3-tert-butyl-ureido)-2-methanesulfonyl-pyrido[2,3-d]pyrimidin-6-yl]-2,4-dichloro-phenyl}-3-trifluoromethyl-benzamide (50 mg, 0.08 mmol) in DMF (2 ml) is added p-toluenesulfonic acid (15 mg, 0.08 mmol) and 4-(2-diethylamino-ethoxy)-phenylamine (21 mg, 0.1 mmol). The reaction is stirred at 80° C. for 4 hours. The crude product is purified by RP-HPLC to give the title compound as yellow solid: 1H NMR 400 MHz (DMSO) δ 10.46 (s, 1H), 10.09 (s, 1H), 9.30 (s, 1H), 9.05 (s, 1H), 8.28 (s, 1H), 8.24 (d, 1H, J=7.6 Hz), 8.05 (m, 2H), 7.95 (m, 3H), 7.76 (m, 3H), 7.67 (d, 2H, J=8.8 Hz), 4.24 (t, 2H, J=4.6 Hz), 3.45 (m, 2H), 3.15 (m, 4H), 1.39 (s, 9H), 1.18 (t, 6H, J=7.2 Hz); MS m/z 783.3 (M+1).

reactant | N—{3-[7-(3-tert-butyl-ureido)-2-methanesulfonyl-pyrido[2,3-d]pyrimidin-6-yl]-2,4-dichloro-phenyl}-3-trifluoromethyl-benzamide | 0.08 mmol, 50 mg | C(C)(C)(C)NC(NC=1C(=CC2=C(N=C(N=C2)S(=O)(=O)C)N1)C=1C(=C(C=CC1Cl)NC(C1=CC(=CC=C1)C(F)(F)F)=O)Cl)=O | C27H23Cl2F3N6O4S
reactant | p-toluenesulfonic acid | 0.08 mmol, 15 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-(2-diethylamino-ethoxy)-phenylamine | 0.1 mmol, 21 mg | C(C)N(CCOC1=CC=C(C=C1)N)CC | C12H20N2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N—(3-{7-(3-tert-Butyl-ureido)-2-[4-(2-diethylamino-ethoxy)-phenylamino]-pyrido[2,3-d]pyrimidin-6-yl}-2,4-dichloro-phenyl)-3-trifluoromethyl-benzamide | C(C)(C)(C)NC(NC=1C(=CC2=C(N=C(N=C2)NC2=CC=C(C=C2)OCCN(CC)CC)N1)C=1C(=C(C=CC1Cl)NC(C1=CC(=CC=C1)C(F)(F)F)=O)Cl)=O | C38H39Cl2F3N8O3
